US06310056B1
To an ice-cooled solution of 0.61 g of 5-bromoimidazo[5,1-b]thiazole in 6 ml of THF was added 3.2 ml of 1 M solution of ethyl magnesium bromide in THF. After stirring at room temperature for 2 hours, the mixture was cooled to −50° C., and a solution of 2.23 g of (3S,4R)-1-[(allyloxycarbonyl)(triphenylphosphoranylidene)methyl]-3-((1R)-1-t-butyldimethylsilyloxyethyl)-4-[(1R)-1-[(pyridin-2-yl)thiocarbonyl]ethyl]azetidin-2-one in 6 ml of THF was added. The mixture was stirred for 1 hour during which the temperature was raised up to 10° C. The reaction mixture was diluted with 12 ml of a saturated aqueous ammonium chloride solution, extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue thus obtained was purified by column chromatography on silica gel (hexane:ethyl acetate=3:2) to give 0.67 g of crude product. A 0.63 g portion of the crude product and a solution of 4.5 mg of hydroquinone in 7 ml of xylene were stirred under heating at 140° C. for 6 hours. The reaction mixture was diluted with 30 ml of ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate, and saturated aqueous saline in this sequence, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue thus obtained was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to give 0.35 g of allyl (1S,5R,6S)-6-((1R)-1-t-butyldimethylsilyloxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 5-bromoimidazo[5,1-b]thiazole | 0.61 g | BrC1=NC=C2SC=CN21 | C5H3BrN2S
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | (3S,4R)-1-[(allyloxycarbonyl)(triphenylphosphoranylidene)methyl]-3-((1R)-1-t-butyldimethylsilyloxyethyl)-4-[(1R)-1-[(pyridin-2-yl)thiocarbonyl]ethyl]azetidin-2-one | 2.23 g | C(C=C)OC(=O)C(N1C([C@@H]([C@@H]1[C@@H](C)C(=S)C1=NC=CC=C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H49N2O4PSSi
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | 12 ml | [Cl-].[NH4+]
solvent | xylene | 7 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | hydroquinone | 4.5 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
product | allyl (1S,5R,6S)-6-((1R)-1-t-butyldimethylsilyloxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 0.35 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=NC=C3SC=CN32)C(=O)OCC=C)C1=O | C24H33N3O4SSi
